US05686482
In a stream of argon, 1.50 g of 4-chloro-2-methoxybenzoic acid was added to 10 ml of sulfuric acid under ice-cooling, and 0.85 g of potassium nitrate was added to the solution in small portions, followed by 2 hours of stirring. After completion of the reaction, the reaction solution was poured on crushed ice, and the thus precipitated product of interest was collected by filtration, washed with methanol and then dried under a reduced pressure to give 1.74 g of 4-chloro-2-methoxy-5-nitrobenzoic acid.

reactant | 4-chloro-2-methoxybenzoic acid | 1.50 g | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | potassium nitrate | 0.85 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-2-methoxy-5-nitrobenzoic acid | 1.74 g | ClC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H6ClNO5
